US05177089
4-(4-Methyl-1H-imidazol-1-yl)benzaldehyde
4.20 g of sodium hydride (a 60% suspension thereof in a mineral oil) was suspended in 150 ml of dimethylformamide to obtain a suspension. 8.62 g of 4-methylimidazol was added to the suspension at a room temperature under stirring in portions. After one hour, 12.4 g of 4-fluorobenzaldehyde was added to the obtained mixture. The obtained mixture was stirred for 4 hours and poured into ice-water. The obtained mixture was extracted with chloroform. The extract was dried over anhydrous sodium sulfate and distilled under a reduced pressure to remove the solvent. The obtained residue was purified by silica gel column chromatography (solvent: chloroform/methanol (50:1)) to obtain a solid product. This solid product was washed with ether to obtain 2.67 g of the title compound as a pale yellow powder (yield: 14%).

reactant | sodium hydride | 4.20 g | [H-].[Na+]
reactant | 4-methylimidazol | 8.62 g | CC=1N=CNC1 | C4H6N2
reactant | 4-fluorobenzaldehyde | 12.4 g | FC1=CC=C(C=O)C=C1 | C7H5FO
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 4-(4-Methyl-1H-imidazol-1-yl)benzaldehyde | 2.67 g, yield: 14% | CC=1N=CN(C1)C1=CC=C(C=O)C=C1 | C11H10N2O
